US05496843
2) 7-Chloro-3-phenylcarbamoylmethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid
A solution of methyl 1-benzenesulfonyl-7-chloro-3-phenylcarbamoylmethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate (140 mg, 0.268 mmol) in a mixture of THF (3 mL), MeOH (3 mL), and 5N NaOH (3 mL) was stirred for 22 h at room temperature, acidified to pH 1 with 1N HCl, and, extracted with 1:1 THF/ethyl acetate. The organic layer was washed successively with water and brine, dried over magnesium sulfate, and concentrated. The residue was rinsed with dichloromethane and dried in vacuo to give 64 mg of the title compound (63%): 1H NMR (DMSO-d6) δ5 12.92 (bs, 1H), 11.44 (s, 1H), 9.86 (s, 1H), 7.60 (d, 2H, J=7.3 Hz), 7.30 (t, 2H, J=7.3 Hz), 7.16 (s, 1H), 7.03 (t, 1H, J=7.3 Hz), 6.85 (s, 1H), 3.89 (m, 1H), 3.06 (mt, 1H, J=12.6 Hz), 2.79 (md, 1H, J=16.8 Hz), 2.68 (dd, 1H, J=14.2, 4.3 Hz), 2.50 (m, 1H), 2.06 (md, 1H, J=12.2 Hz), 1.85 (m, 1H).

reactant | methyl 1-benzenesulfonyl-7-chloro-3-phenylcarbamoylmethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate | 0.268 mmol, 140 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=C2C=3C(=CC(=CC13)Cl)CCC2CC(NC2=CC=CC=C2)=O)C(=O)OC | C27H23ClN2O5S
reactant | MeOH | 3 mL | CO | CH4O
reactant | NaOH | 5N, 3 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-Chloro-3-phenylcarbamoylmethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid | 64 mg, 63% | ClC=1C=C2C=3C(=C(NC3C1)C(=O)O)C(CC2)CC(NC2=CC=CC=C2)=O | C20H17ClN2O3
